US06734179B2
To a stirred solution of 600 mg (1.65 mmol) (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester in 10 ml dioxane were added 1.23 g (3.30 mmol) tri-n-butyl-(3,6-dihydro-2H-pyran-4-yl)-stannane, 28 mg (0.05 mmol) bis(dibenzylideneacetone)palladium and 61 mg (0.26 mmol) trifurylphosphine. The mixture was heated at 100° C. for 16 h and then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/9-1/3 ethyl acetate/hexane) afforded 200 mg [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester as a light brown solid. ES-MS m/e (%): 319 ([M−H], 100).

reactant | (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 1.65 mmol, 600 mg | COC(NC=1SC2=C(N1)C(=CC=C2I)OC)=O | C10H9IN2O3S
reactant | tri-n-butyl-(3,6-dihydro-2H-pyran-4-yl)-stannane | 3.30 mmol, 1.23 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
reactant | trifurylphosphine | 0.26 mmol, 61 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 0.05 mmol, 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [7-(3,6-dihydro-2H-pyran-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | 200 mg | COC(NC=1SC2=C(N1)C(=CC=C2C=2CCOCC2)OC)=O | C15H16N2O4S
